US05998433
c) Synthesis of 2-(4-benzyloxy-3-methoxyphenyl)-1-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)ethan-1-one hydrochloride
2-(4-Benzyloxy-3-methoxy-phenyl)-1-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)ethane-1-one 0.197 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. After this mixture was concentrated, diethyl ether was added; the resulting solid was filtered and washed with diethyl ether to yield the desired product.

reactant | 2-(4-Benzyloxy-3-methoxy-phenyl)-1-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)ethane-1-one | 0.197 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC(=O)N1CC2=C(CC1)C=C(O2)CN(C)C)OC | C26H30N2O4
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-benzyloxy-3-methoxyphenyl)-1-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)ethan-1-one hydrochloride | Cl.C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC(=O)N1CC2=C(CC1)C=C(O2)CN(C)C)OC | InChI=1S/C26H30N2O4.ClH/c1-27(2)16-22-15-21-11-12-28(17-25(21)32-22)26(29)14-20-9-10-23(24(13-20)30-3)31-18-19-7-5-4-6-8-19;/h4-10,13,15H,11-12,14,16-18H2,1-3H3;1H
